US07713994B2
A mixture of 1-furan-3-yl-4-methyl-1H-pyridin-2-one (3.7 g, 21 mmol), tert-butoxybis(dimethylamino)methane (11 g, 63 mmol), and N,N-dimethylformamide (4 mL) is heated in a 150° C. oil bath for 2½ hours and then concentrated to dryness under reduced pressure. A quantitative yield of 4-(2-dimethylamino-vinyl)-1-furan-3-yl-1H-pyridin-2-one is assumed, and the material is carried on without further purification.

reactant | 1-furan-3-yl-4-methyl-1H-pyridin-2-one | 21 mmol, 3.7 g | O1C=C(C=C1)N1C(C=C(C=C1)C)=O | C10H9NO2
reactant | tert-butoxybis(dimethylamino)methane | 63 mmol, 11 g | C(C)(C)(C)OC(N(C)C)N(C)C | C9H22N2O
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | 4-(2-dimethylamino-vinyl)-1-furan-3-yl-1H-pyridin-2-one | quantitative yield | CN(C=CC1=CC(N(C=C1)C1=COC=C1)=O)C | C13H14N2O2
